US06531476B1
32.3 g (71 mmol) of 1,4-dibenzyl-2-isopropyloxycarbonylaminomethylpiperazine hydrochloride are dissolved in 100 ml of acetic acid and 200 mg of palladium (10%) on charcoal are added. Using PARR apparatus, the suspension is stirred and heated at 60° C. under hydrogen pressure (2.7 bar) overnight. The catalyst is filtered off and the solvent is evaporated to give a compound which is crystallized from an ethanol/ether mixture (5/95 v/v) to give 17 g of 2-isopropyloxycarbonylaminomethylpiperazine hydrochloride in the form of white crystals. Yield: 87%. Melting point: 237.1° C. Rf=0.6 (80/20/2 v/v/v CHCl3/MeOH/NH4OH).

reactant | 1,4-dibenzyl-2-isopropyloxycarbonylaminomethylpiperazine hydrochloride | 71 mmol, 32.3 g | Cl.C(C1=CC=CC=C1)N1C(CN(CC1)CC1=CC=CC=C1)CNC(=O)OC(C)C
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
catalyst | palladium | 200 mg | [Pd] | Pd
product | 2-isopropyloxycarbonylaminomethylpiperazine hydrochloride | 17 g, Yield: 87% | Cl.C(C)(C)OC(=O)NCC1NCCNC1 | InChI=1S/C9H19N3O2.ClH/c1-7(2)14-9(13)12-6-8-5-10-3-4-11-8;/h7-8,10-11H,3-6H2,1-2H3,(H,12,13);1H
